### PR TITLE
[Merged by Bors] - chore(Analysis/Seminorm): generalize various lemmas

### PR DESCRIPTION
**Pull request by mcdoll**
---

In another PR I generalize a construction from normed spaces to locally convex spaces and some lemmas are
stated for the base field as `NormedDivisionRing`, but `WithSeminorms` needs `NormedField`. This prompted me to figure
out whether the typeclasses can be relaxed.

I have zero mathematical reason for this.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Seminorm.lean [hunk 1]
```diff
@@ -1333,12 +1339,12 @@ variable {𝕜 E} {x : E}
 /-- Balls at the origin are absorbent. -/
 theorem absorbent_ball_zero (hr : 0 < r) : Absorbent 𝕜 (Metric.ball (0 : E) r) := by
   rw [← ball_normSeminorm 𝕜]
-  exact (normSeminorm _ _).absorbent_ball_zero hr
+  exact (normSeminorm _ _).absorbent_ball_zero hr (𝕜 := 𝕜)
```
Comment (mcdoll) [inline Mathlib/Analysis/Seminorm.lean]: I have no idea why this is necessary

File: Mathlib/Analysis/Seminorm.lean [hunk 2]
```diff
@@ -1333,12 +1339,12 @@ variable {𝕜 E} {x : E}
 /-- Balls at the origin are absorbent. -/
 theorem absorbent_ball_zero (hr : 0 < r) : Absorbent 𝕜 (Metric.ball (0 : E) r) := by
   rw [← ball_normSeminorm 𝕜]
-  exact (normSeminorm _ _).absorbent_ball_zero hr
+  exact (normSeminorm 𝕜 _).absorbent_ball_zero hr
```
Comment (mcdoll) [inline Mathlib/Analysis/Seminorm.lean:1342]: It is weird that unification fails without it.

**Comment by grunweg** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/552951d1d25f71d8e703b1c51bc1d0d0e26dd857?reference=671e5520a2f31a6e2a7278f44fd51e07d922d523) for 552951d1d25f71d8e703b1c51bc1d0d0e26dd857 against 671e5520a2f31a6e2a7278f44fd51e07d922d523 are in. No significant results found. @grunweg

- 🟥 `build//instructions`: **+125.0G** (**+0.09%**)

No significant changes detected.

**Review by grunweg — COMMENTED** [review]
Thanks! I don't feel strongly about this either, but why not take the generalization? LGTM assuming benchmarking is neutral. I didn't investigate the unification failures closely; I'll let this sit for 48 hours (and will merge if nobody else feels compelled to do so).
maintainer delegate?

**Review by j-loreaux — COMMENTED** [review]
Thanks! I don't see much use for some of it either, but it doesn't seem to hurt.

bors merge
